US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride
To a solution of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide (318 mg, 0.739 mmol) in ethanol (15 mL) was added 1N hydrogen chloride-ethyl acetate solution (886 μL), and the mixture was stirred at room temperature for 2 days. The precipitated solid was collected by filtration and washed with ethanol to give the title compound (256 mg, 74%) as a white solid.

reactant | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.739 mmol, 318 mg | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C1 | C23H22N6O3
reactant | hydrogen chloride-ethyl acetate | 1N, 886 μL | C(C)(=O)OCC.Cl
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 256 mg, 74% | Cl.C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C)C)C1 | InChI=1S/C23H22N6O3.ClH/c1-14-10-19(28(2)27-14)23(31)24-16-4-3-5-17(11-16)32-18-8-9-21-25-20(13-29(21)12-18)26-22(30)15-6-7-15;/h3-5,8-13,15H,6-7H2,1-2H3,(H,24,31)(H,26,30);1H
